US04337353
6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hexanoic acid
Hydrogen was passed through a mixture of 16.27 g of 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hex-4-enoic acid in 80 ml of methanol and 16.3 g of Raney nickel and then the catalyst was filtered off. The methoanol was distilled from the filtrate and the residue was taken up in methylene chloride. The solution was dried, treated with activated carbon, filtered and evaporated to dryness to obtain, after crystallization from a 1-1 isorpopyl ether-petroleum ether mixture, 11.15 g of 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hexanoic acid melting at 82° C.

reactant | Hydrogen | [H][H] | H2
reactant | 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hex-4-enoic acid | 16.27 g | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CC=CCCC(=O)O)C)C=C1 | C20H19ClO3
solvent | methanol | 80 ml | CO | CH4O
catalyst | Raney nickel | 16.3 g | [Ni] | Ni
product | 6-[3'-(4-chlorobenzoyl)-2'-methyl-phenyl]-hexanoic acid | ClC1=CC=C(C(=O)C=2C(=C(C=CC2)CCCCCC(=O)O)C)C=C1 | C20H21ClO3
